US08497265B2
Triethylamine (2.9 g, 29.6 mmol), 2-chloro-quinoline (purchased from Alfa Aesar™) (2.4 g, 14.8 mmol) and piperidin-4-ol (1.5 g, 14.8 mmol) were dissolved in DMF (20 mL). The resulting mixture was heated to 100° C. overnight. The mixture was then diluted with water (20 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were combined and washed with water (20 mL) and brine (20 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (20% to 70% EtOAc in petroleum ether) to give 1-(quinolin-2-yl)piperidin-4-ol (2.0 g, 8.7 mmol, 60% yield) as white solid. ESI-MS (M+1): 229 calc. for C14H16N2O 228.

reactant | Triethylamine | 29.6 mmol, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-quinoline | 14.8 mmol, 2.4 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | piperidin-4-ol | 14.8 mmol, 1.5 g | N1CCC(CC1)O | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 1-(quinolin-2-yl)piperidin-4-ol | 8.7 mmol, 2.0 g, 60% yield | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)O | C14H16N2O
